US07192956B2
To a stirred solution of 2-(2-aminophenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (4.20 g, 16.20 mmol) in THF (160 mL) was added triphosgene (4.80 g, 16.20 mmol). The reaction was stirred overnight, quenched with ammonium chloride solution (sat.) and extracted several times with ethyl acetate. The organic layer was dried over magnesium sulfate and triturated with ether/hexane to give 2.78 g of 4,4-bis(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-2-one as a tan solid (60%). 1H NMR (DMSO-d6): δ 11.37 (s, 1H), 7.62 (m, 2H), 7.29 (t, J=7.5 Hz, 1H), 7.11 (dd, J=8.0, 0.8 Hz, 1H). MS (ESI) m/z 284 ([M−H]−); HRMS: calcd for C10H5F6NO2, 285.0224; found (ESI_FT), 286.0299; Anal. Calcd for C10H5F6NO2: C, 42.12; H, 1.77; N, 4.91. Found: C, 42.63; H, 1.79; N, 4.72.

reactant | 2-(2-aminophenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 16.20 mmol, 4.20 g | NC1=C(C=CC=C1)C(C(F)(F)F)(C(F)(F)F)O | C9H7F6NO
reactant | triphosgene | 16.20 mmol, 4.80 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | THF | 160 mL | C1CCOC1 | C4H8O
product | 4,4-bis(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-2-one | 2.78 g, 60% | FC(C1(OC(NC2=C1C=CC=C2)=O)C(F)(F)F)(F)F | C10H5F6NO2
